### PR TITLE
chore: generalize `IsZeroOneMeasure.exists_eq_dirac`

### PR DESCRIPTION
**Pull request by RemyDegenne**
Replace the `StandardBorelSpace` assumption by `CountablySeparated`, since the existing proof used only that.
Add another version of the result for `CountablyGenerated`.

---

- [x] depends on: #39770

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean [hunk 1]
```diff
@@ -134,6 +134,127 @@ instance [MeasurableSpace α] [CountablyGenerated α] [MeasurableSpace β] [Coun
     CountablyGenerated (α × β) :=
   .sup (.comap Prod.fst) (.comap Prod.snd)
 
+section CountablyGeneratedAtom
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean:137]: splice-bot

**Comment by gaetanserre** [comment]
Thanks! Again, LGTM.

File: Mathlib/MeasureTheory/Measure/Typeclasses/ZeroOne.lean [hunk 2]
```diff
@@ -93,63 +97,76 @@ lemma measure_inter_eq_prod {s t : Set α} (hs : MeasurableSet s) (ht : Measurab
...
-    · intro h
-      split_ifs at hy with hμAn
-      · simpa [hμAn] using hsome
-      · contradiction
-    · intro h
-      split_ifs at hsome with hμAn
-      · simpa [hμAn] using hy
-      · contradiction
+    have := μ.zero_one (A n)
+    split_ifs with h <;> simp_all
```
Comment (gaetanserre) [inline Mathlib/MeasureTheory/Measure/Typeclasses/ZeroOne.lean]:
```suggestion
    split_ifs <;> simp_all
```

File: Mathlib/MeasureTheory/Measure/Typeclasses/ZeroOne.lean [hunk 3]
```diff
@@ -93,63 +97,76 @@ lemma measure_inter_eq_prod {s t : Set α} (hs : MeasurableSet s) (ht : Measurab
...
+  refine exists_eq_dirac_of_measurableAtom_eq_iInter hAm fun x ↦ ?_
+  have := MeasurableSpace.measurableSingletonClass_of_countablySeparated (α := α)
+  rw [measurableAtom_of_measurableSingletonClass]
+  ext y
+  simp only [mem_iInter, mem_singleton_iff]
+  specialize hAsep x (mem_univ x) y (mem_univ y)
+  refine ⟨fun h ↦ by simp [h]; grind, fun h ↦ ?_⟩
+  symm
+  refine hAsep fun n ↦ ?_
+  specialize h n
```
Comment (gaetanserre) [inline Mathlib/MeasureTheory/Measure/Typeclasses/ZeroOne.lean]:
```suggestion
```

File: Mathlib/MeasureTheory/Measure/Typeclasses/ZeroOne.lean [hunk 4]
```diff
@@ -93,63 +97,76 @@ lemma measure_inter_eq_prod {s t : Set α} (hs : MeasurableSet s) (ht : Measurab
...
+  classical
+  refine exists_eq_dirac_of_measurableAtom_eq_iInter hAm fun x ↦ ?_
+  have := MeasurableSpace.measurableSingletonClass_of_countablySeparated (α := α)
+  rw [measurableAtom_of_measurableSingletonClass]
+  ext y
+  simp only [mem_iInter, mem_singleton_iff]
+  specialize hAsep x (mem_univ x) y (mem_univ y)
+  refine ⟨fun h ↦ by simp [h]; grind, fun h ↦ ?_⟩
+  symm
+  refine hAsep fun n ↦ ?_
```
Comment (gaetanserre) [inline Mathlib/MeasureTheory/Measure/Typeclasses/ZeroOne.lean]:
```suggestion
refine ⟨fun h ↦ by simp [h]; grind, fun h ↦ symm <| hAsep fun n ↦ ?_⟩
```
I'm not sure it's really better.

**Review by gaetanserre — COMMENTED** [review]
Feel free to ignore these suggestions!

File: Mathlib/MeasureTheory/Measure/Typeclasses/ZeroOne.lean [hunk 5]
```diff
@@ -93,63 +97,73 @@ lemma measure_inter_eq_prod {s t : Set α} (hs : MeasurableSet s) (ht : Measurab
...
+    ∃ x₀, μ = Measure.dirac x₀ := by
+  obtain ⟨A, hAm, hAsep⟩ := exists_seq_separating (α := α) MeasurableSet.univ univ
+  classical
+  refine exists_eq_dirac_of_measurableAtom_eq_iInter hAm fun x ↦ ?_
+  have := MeasurableSpace.measurableSingletonClass_of_countablySeparated (α := α)
+  rw [measurableAtom_of_measurableSingletonClass]
+  ext y
+  simp only [mem_iInter, mem_singleton_iff]
+  specialize hAsep x (mem_univ x) y (mem_univ y)
+refine ⟨fun h ↦ by simp [h]; grind, fun h ↦ symm <| hAsep fun n ↦ ?_⟩
```
Comment (gaetanserre) [inline Mathlib/MeasureTheory/Measure/Typeclasses/ZeroOne.lean]:
```suggestion
  refine ⟨fun h ↦ by simp [h]; grind, fun h ↦ symm <| hAsep fun n ↦ ?_⟩
```
Sorry I forgot the indentation.

File: Mathlib/Probability/Kernel/Deterministic.lean [hunk 6]
```diff
@@ -103,10 +103,10 @@ lemma isDeterministic_iff_isZeroOneMeasure (κ : Kernel α β) [IsFiniteKernel 
 instance (κ : Kernel α β) [IsFiniteKernel κ] [IsDeterministic κ] : ∀ a, IsZeroOneMeasure (κ a) :=
   (isDeterministic_iff_isZeroOneMeasure κ).mp ‹_›
 
-/-- in a standard Borel space, a deterministic Markov kernel is a Dirac kernel of one measurable
-function. -/
-theorem IsDeterministic.exists_eq_deterministic [StandardBorelSpace β] (κ : Kernel α β)
-    [IsMarkovKernel κ] [IsDeterministic κ] :
+/-- In a countably separated measurable space, a deterministic Markov kernel is a Dirac kernel
+of one measurable function. -/
+theorem IsDeterministic.exists_eq_deterministic [MeasurableSpace.CountablySeparated β]
```
Comment (gaetanserre) [inline Mathlib/Probability/Kernel/Deterministic.lean]: Would it be possible to have this theorem also for `MeasurableSpace.CountablyGenerated`?

File: Mathlib/Probability/Kernel/Basic.lean [hunk 7]
```diff
@@ -78,6 +78,23 @@ theorem deterministic_congr {f g : α → β} {hf : Measurable f} (h : f = g) :
...
+    ∃ (f : α → β) (hf : Measurable f), κ = deterministic f hf := by
+  choose f hf using hκ
+  refine ⟨f, ?_, ?_⟩
+  · intro s hs
+    suffices f ⁻¹' s = (fun a => κ a s) ⁻¹' {1} by
+      rw [this]
+      exact κ.measurable_coe hs (measurableSet_singleton 1)
+    ext x
+    simp only [Set.mem_preimage, hf, Measure.dirac_apply' _ hs, Set.mem_singleton_iff]
+    exact (Set.indicator_eq_one_iff_mem ENNReal).symm
```
Comment (EtienneC30) [inline Mathlib/Probability/Kernel/Basic.lean]:
```suggestion
    simp [hf, hs, Set.indicator_eq_one_iff_mem]
```

File: Mathlib/MeasureTheory/Measure/Typeclasses/ZeroOne.lean [hunk 8]
```diff
@@ -93,63 +97,73 @@ lemma measure_inter_eq_prod {s t : Set α} (hs : MeasurableSet s) (ht : Measurab
...
+/-- If there is a countable family of sets that generates the atoms of the measurable space, then
+a zero-one measure that is not the zero measure is a Dirac measure. -/
+lemma exists_eq_dirac_of_measurableAtom_eq_iInter [NeZero μ] [∀ (A : Set α), DecidablePred (· ∈ A)]
+    {A : ℕ → Set α} (hA : ∀ n, MeasurableSet (A n))
+    (hA_atom : ∀ x, measurableAtom x = ⋂ n, if x ∈ A n then A n else (A n)ᶜ) :
+    ∃ x₀, μ = Measure.dirac x₀ := by
   have : IsProbabilityMeasure μ := by
     rcases IsZeroOrProbabilityMeasure.measure_univ (μ := μ) with (h | h)
     · simp_all
     · exact ⟨h⟩
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/Typeclasses/ZeroOne.lean]: Should there be an instance `[IsZeroOneMeasure µ] -> [NeZero µ] -> IsProbabilityMeasure µ`?

File: Mathlib/MeasureTheory/Measure/Typeclasses/ZeroOne.lean [hunk 9]
```diff
@@ -93,63 +97,73 @@ lemma measure_inter_eq_prod {s t : Set α} (hs : MeasurableSet s) (ht : Measurab
...
+  obtain ⟨A, hAm, hAsep⟩ := exists_seq_separating (α := α) MeasurableSet.univ univ
+  classical
+  refine exists_eq_dirac_of_measurableAtom_eq_iInter hAm fun x ↦ ?_
+  have := MeasurableSpace.measurableSingletonClass_of_countablySeparated (α := α)
+  rw [measurableAtom_of_measurableSingletonClass]
+  ext y
+  simp only [mem_iInter, mem_singleton_iff]
+  specialize hAsep x (mem_univ x) y (mem_univ y)
+  refine ⟨fun h ↦ by simp [h]; grind, fun h ↦ symm <| hAsep fun n ↦ ?_⟩
+  grind
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/Typeclasses/ZeroOne.lean]:
```suggestion
  grind
```

File: Mathlib/MeasureTheory/Measure/Typeclasses/ZeroOne.lean (hunk 8 above)
Comment (RemyDegenne) [reply Mathlib/MeasureTheory/Measure/Typeclasses/ZeroOne.lean]: I added an instance from IsZeroOrProbabilityMeasure and NeZero to IsProbabilityMeasure.

**Comment by RemyDegenne** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/6d353fc6119523630f4ea90391663cfebc72211d?reference=cb62b37c3d1f53207d48dd58ba15405b03bbcd3e) for 6d353fc6119523630f4ea90391663cfebc72211d against cb62b37c3d1f53207d48dd58ba15405b03bbcd3e are in. There are significant results. @RemyDegenne

- ✅ `build//instructions`: **-13.7G** (**-0.01%**)

**Medium changes (1✅)**

- ✅ `build/module/Mathlib.MeasureTheory.Measure.Typeclasses.ZeroOne//instructions`: **-4.8G** (**-27.10%**)

**Small changes (66✅, 1🟥)**

Too many entries to display here. View the full report on radar instead.

**Comment by EtienneC30** [comment]
Thanks!
maintainer merge

**Comment by sgouezel** [comment]
It feels strange to have two versions of the theorem which are essentially the same. Is it worth it introducing the correct typeclass for this, something like `CountablySeparatedAtoms`, just like `CountablySeparated` but separating the atoms instead of the points (i.e., your assumption `hA_atom` in `exists_eq_dirac_of_measurableAtom_eq_iInter`), and then registering two instances from `CountablyGenerated` and `CountablySeparated`?

**Comment by RemyDegenne** [comment]
I added the new class, but I encountered typeclass synthesizing issues (which already existed before this PR, but also got triggered by the new instances).
If Lean tries to infer `CountablySeparated` but it's not there, it then searches (several things and then) `MeasurableSingletonClass`, then `MeasurableEq`, and there are several typeclasses implying `MeasurableEq` involving topology and algebra, and we get a search explosion while trying to synthesize `Semiring` and other completely unrelated typeclasses.

In this PR I add two instance `CountablyGenerated -> CountablySeparatedAtoms` and `CountablySeparated -> CountablySeparatedAtoms`. If in an application I have `CountablyGenerated` and Lean is trying to generate `CountablySeparatedAtoms`, before the priority adjustment that I made to those two instances it looked for `CountablySeparated` first and I got a max heartbeats error. After the priority adjustment it tries `CountablyGenerated` first, which fails quickly if it's not found.

I'm looking at other instances to see if I can find a more robust solution to the `CountablySeparated` problem.
